US07750020B2
A solution of the title D compound, 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester (14 g, 0.034 mol) in methanol:water (30 mL:10 mL) and sodium hydroxide (4.11 g, 0.10 mol) is stirred at 60° C. for 8 h in an oil bath. The methanol is then removed in vacuo at 45-50° C. The residue is diluted with water (25 mL) and extracted with ether (1×40 mL). The aqueous layer is acidified to pH 5 with 3 N aqueous hydrochloric acid solution. The precipitated solid is collected by vacuum filtration, washed with water (20 mL), followed by isopropyl alcohol (20 mL). Finally, solid cake is washed with 100 mL of hexane and dried under vacuum at 40° C. for 6 h to give 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid as a white solid: 1H NMR (400 MHz, CDCl3) δ 1.1-2.0 (m, 11H), 2.4 (s, 3H), 2.7 (br s, 4H), 3.1 (br s, 4H), 3.6 (m, 1H), 7.5 (d, J=8.3, 2H), 7.6 (d, J=8.3, 2H); MS 381 [M+l]+.

reactant | 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester | 0.034 mol, 14 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C21H32N2O4S
reactant | water | 30 mL | O | H2O
reactant | sodium hydroxide | 0.10 mol, 4.11 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C19H28N2O4S
